US05264437
1-(3-Methylthiophenyl)-3-(4-pyridylmethyl)pyrido[2,3-d]pyrimidine-2,4(1H,3H)-dione (250 mg, 0.664 mmole), prepared, e.g., as described in Example 5B, was dissolved in methanol (3 ml) and cooled to 0° C. To this solution, a 50% solution of 2KHSO5. KHSO4.K2SO4 in H2O, (this reagent is commercially available under the trademark of "OXONE®" from the Aldrich Chemical Company), (1.22 g, 1.99 mmole) was added. A cloudy slurry was formed and stirred at room temperature for 4 hours. The reaction mixture was diluted by adding H2O (2.4 ml) and extracted three times with methylene chloride (3×5 ml). The organic phases were combined and dried over Na2SO4, followed by filtration. The solvent was removed and the residue was dissolved in ethyl acetate/ethyl ether. The product was recrystallized out of the solution yielding 190 mg (0.465 mmole, 79% yield) of 1-(3-methylsulfonylphenyl)-3-(4-pyridylmethyl)pyrido[2,3-d]pyrimidine-2,4(1H,3H)-dione (mp 254°-256° C.) as a white solid.

reactant | 1-(3-Methylthiophenyl)-3-(4-pyridylmethyl)pyrido[2,3-d]pyrimidine-2,4(1H,3H)-dione | 0.664 mmole, 250 mg | CSC=1C=C(C=CC1)N1C(N(C(C2=C1N=CC=C2)=O)CC2=CC=NC=C2)=O | C20H16N4O2S
reactant | KHSO4 | OS(=O)(=O)[O-].[K+]
reactant | OXONE | OOS(=O)[O-].[K+]
reactant | methanol | 3 ml | CO | CH4O
solvent | H2O | O | H2O
solvent | H2O | 2.4 ml | O | H2O
product | 1-(3-methylsulfonylphenyl)-3-(4-pyridylmethyl)pyrido[2,3-d]pyrimidine-2,4(1H,3H)-dione | 0.465 mmole, 190 mg, 79% yield | CS(=O)(=O)C=1C=C(C=CC1)N1C(N(C(C2=C1N=CC=C2)=O)CC2=CC=NC=C2)=O | C20H16N4O4S
